US04060691
To a solution of 1.74 parts of methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate in 12 parts by volume of dry benzene is added 0.005 part of p-toluenesulfonic acid and 1.74 parts of dihydropyran. The reaction mixture is stirred for 5 minutes under a nitrogen atmosphere and then allowed to stand at room temperature for a further 2 hours. The resulting solution is diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, and stripped of solvent under reduced pressure to afford methyl 7-(3(S)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)-heptanoate.

reactant | methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate | O[C@@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dihydropyran | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 7-(3(S)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)-heptanoate | O1C(CCCC1)O[C@@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C18H28O5
